US08067408B2
To a suspension of [(3-bromo-2-fluorophenyl)methyl]amine (5.0 g, 20.3 mmol) and Na2CO3 (5.5 g, 51.9 mmol) in CH2Cl2 (100 mL), the solution of Boc2O (4.5 g, 20.6 mmol) in CH2Cl2 (10 ml) was added dropwise. Then the reaction mixture was stirred overnight at room temperature. After filtration, the solid was washed with CH2Cl2 (50 mL×2), and then the filtrate was washed with water (70 mL×2), brine (70 mL×2) and dried over Na2SO4. After removing the solvent, 5.6 g of 1,1-dimethylethyl [(3-bromo-2-fluorophenyl)methyl]carbamate was obtained (yield: 94%).

reactant | [(3-bromo-2-fluorophenyl)methyl]amine | 20.3 mmol, 5.0 g | BrC=1C(=C(C=CC1)CN)F | C7H7BrFN
reactant | Na2CO3 | 51.9 mmol, 5.5 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Boc2O | 20.6 mmol, 4.5 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 1,1-dimethylethyl [(3-bromo-2-fluorophenyl)methyl]carbamate | 5.6 g, yield: 94% | BrC=1C(=C(C=CC1)CNC(OC(C)(C)C)=O)F | C12H15BrFNO2
